US07511055B2
Step 3: (6-Methyl-pyridin-2-yl)-(5-pyridin-3-yl-[1,7]naphthyridin-8-yl)-amine
5-Pyridin-3-yl-[1,7]naphthyridin-8-ylamine (0.1 g, 0.45 mmol) and 2-bromo-6-methylpyridine (0.14 g, 0.8 mmol) were dissolved in 4 ml dry dioxane. 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (52 mg, 0.09 mmol), cesium carbonate (0.23 g, 0.72 mmol) and tri(dibenzylideneacetone)dipalladium chloroform complex (47 mg, 0.045 mmol) were added and the reaction mixture was stirred for 20 hrs at 130° C. The reaction mixture was then evaporated and purified by flash chromatography on silica gel (heptane/ethyl acetate 1:1->0:100 gradient). The desired product was obtained as a light yellow solid (66 mg, 47%), MS: m/e=314.0 (M+H+).

reactant | 5-Pyridin-3-yl-[1,7]naphthyridin-8-ylamine | 0.45 mmol, 0.1 g | N1=CC(=CC=C1)C1=C2C=CC=NC2=C(N=C1)N | C13H10N4
reactant | 2-bromo-6-methylpyridine | 0.8 mmol, 0.14 g | BrC1=NC(=CC=C1)C | C6H6BrN
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.09 mmol, 52 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | cesium carbonate | 0.72 mmol, 0.23 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
product | (6-Methyl-pyridin-2-yl)-(5-pyridin-3-yl-[1,7]naphthyridin-8-yl)-amine | CC1=CC=CC(=N1)NC=1N=CC(=C2C=CC=NC12)C=1C=NC=CC1 | C19H15N5
